US06395734B1
3-[4-Methyl-5-(4-methyl-2-oxo-1,2-dihydroindol-3-ylidenemethyl)-1H-pyrrol-3-yl]-propionic acid
4-(2-Carboxyethyl)-2-formyl-3-methylpyrrole (90 mg), 74 mg 4-methyl-2-oxindole, and 75 μL piperidine in 2 mL of ethanol were heated at 95° C. for 5 hours. The reaction mixture was cooled and concentrated. The residue was suspended in 6 N aqueous hydrochloric acid. The precipitate was filtered, washed with water to pH 6 and dried in a vacuum oven to give 80 mg (52%) of the title compound as a brown solid.

reactant | 4-(2-Carboxyethyl)-2-formyl-3-methylpyrrole | 90 mg | C(=O)(O)CCC=1C(=C(NC1)C=O)C | C9H11NO3
reactant | 4-methyl-2-oxindole | 74 mg | CC1=C2CC(NC2=CC=C1)=O | C9H9NO
reactant | piperidine | 75 μL | N1CCCCC1 | C5H11N
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | 3-[4-Methyl-5-(4-methyl-2-oxo-1,2-dihydroindol-3-ylidenemethyl)-1H-pyrrol-3-yl]-propionic acid | 80 mg, 52% | CC=1C(=CNC1C=C1C(NC2=CC=CC(=C12)C)=O)CCC(=O)O | C18H18N2O3
